US08957203B2
To a solution of 1-chloro-7-fluoroisoquinolin-4-ol (0.5 g, 2.53 mmol) in acetonitrile (10 ml) was added K2CO3 (700 mg, 5.06 mmol) followed by ethyl iodide (475 mg, 3.04 mmol) at room temperature. The reaction mixture was stirred at room temperature for overnight. The solvent was evaporated under reduced pressure and the residue was diluted with water and extracted with ethyl acetate. The combined organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography to get 1-chloro-7-fluoro-4-ethoxyisoquinoline (400 mg 70%) as off-white solid.

reactant | 1-chloro-7-fluoroisoquinolin-4-ol | 2.53 mmol, 0.5 g | ClC1=NC=C(C2=CC=C(C=C12)F)O | C9H5ClFNO
reactant | K2CO3 | 5.06 mmol, 700 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 3.04 mmol, 475 mg | C(C)I | C2H5I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-chloro-7-fluoro-4-ethoxyisoquinoline | 400 mg, 70% | ClC1=NC=C(C2=CC=C(C=C12)F)OCC | C11H9ClFNO
